US05665718
3.5 g (20 mmol) of BOC-glycine were dissolved in 20 ml of N,N-dimethylformamide and treated portionwise with 3.35 g (20 mmol) of 1,1'-carbonyldiimidazole. After stirring at 45° for 10 minutes 6.35 g (20 mmol) of (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime were added and the mixture was stirred at 90° overnight. The reaction mixture was concentrated; the residue was dissolved in methylene chloride and the solution was washed three times with water, dried over magnesium sulfate and evaporated. By chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 7.5 g (82%) of (S)-1-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-9-one, which was used in the next step without further purification.

reactant | BOC-glycine | 20 mmol, 3.5 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 1,1'-carbonyldiimidazole | 20 mmol, 3.35 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | 20 mmol, 6.35 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CC1)=O | C14H12ClN5O2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-9-one | 7.5 g, 82% | C(=O)(OC(C)(C)C)C1=NC(N(O1)CN)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C21H23ClN6O4
